US07411072B2
5-(2,8-difluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 1-(2-morpholin-4yl-ethyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (520 mg, 1.4 mmol), 5-bromomethylene-2,8-difluoro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (510 mg, 1.6 mmol)(prepared using a procedure essentially as described for the 2,8-dichloro derivative in Example 182), 2N Na2CO3 (1 mL), dioxane (10 mL) and (Ph3P)4Pd (67 mg, 0.06 mmol). Purify the crude product by column chromatography using MeOH/ethyl acetate to give 310 mg colorless oil that solidified upon drying, HPLC (ISO80-10M) t=2.03 (97%). MS (ES) 488 (M+1), 486 (M−1). H NMR 10.69 (s, 1H), 7.49 (dd, 1H, J=8.4, 6.2 Hz), 7.22 (dd, 1H, J=9.7, 2.2 Hz), 7.02 (td, 1H, J=12.0, 4.2 Hz), 6.97-6.83 (m, 4H), 6.81 (s, 1H), 6.72 (d, 1H, J=7.9 Hz), 6.56 (s, 1H), 3.80 (t, 2H, J=6.2 Hz), 3.47 (t, 4H, J=4.2 Hz), 3.31 (s, 2H), 2.90 (s, 2H), 2.48 (m, 2H), 2.38 (s, 4H).

reactant | 1-(2-morpholin-4yl-ethyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 1.4 mmol, 520 mg | N1(CCOCC1)CCN1C(NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)=O | C19H28BN3O4
reactant | 5-bromomethylene-2,8-difluoro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.6 mmol, 510 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)F)C=C(C=C2)F | C16H11BrF2
reactant | Na2CO3 | 2N, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (Ph3P)4Pd | 0.06 mmol, 67 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-(2,8-difluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one | 310 mg | FC1=CC2=C(C(C3=C(CC2)C=C(C=C3)F)=CC3=CC2=C(N(C(N2)=O)CCN2CCOCC2)C=C3)C=C1 | C29H27F2N3O2
